US04116956
To a mixture of 9.1 parts of 2-amino-5-phenyl-7-trifluoromethyl-3H-1,4-benzodiazepine, 150 parts by volume of ethanol and 3.6 parts by volume of glacial acetic acid is added 4.5 parts by volume of 100% hydrazine hydrate. The whole mixture is stirred for 30 minutes at room temperature and treated in a similar manner to Example 1, whereby 2-hydrazino-5-phenyl-7-trifluoromethyl-3H-1,4-benzodiazepine is yielded as a crystalline powder. Melting point: 127° C (sintering), 133° C to 135° C (effervescence).

reactant | 2-amino-5-phenyl-7-trifluoromethyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C(F)(F)F | C16H12F3N3
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-hydrazino-5-phenyl-7-trifluoromethyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)C(F)(F)F | C16H13F3N4
